US08754089B2
A mixture of 3-bromo-2-(chloromethyl)-4H-pyrido[1,2-a]pyrimidin-4-one (4.53 g, 15.76 mmol), potassium acetate (1.5 equiv.) and DMF (60 mL) was stirred at 40° C. for 3.5 h, at this point the reaction was completed by LCMS. The mixture was cond under reduced pressure. To the residue was added water (100 mL) and the resulting precipitate was collected by filtration, washed with water (100 mL) and dried to give the (3-bromo-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl acetate as a brown solid, which was carried forward without further purification: 1HNMR (400 MHz, DMSO-d6): δ 8.96-8.98 (dd,1H), 8.03-8.08 (m,1H), 7.74-7.76 (dd,1H), 7.43-7.48 (m,1H), 5.2 (s,2H), 2.1 (s,3H).

reactant | 3-bromo-2-(chloromethyl)-4H-pyrido[1,2-a]pyrimidin-4-one | 15.76 mmol, 4.53 g | BrC1=C(N=C2N(C1=O)C=CC=C2)CCl | C9H6BrClN2O
reactant | potassium acetate | 1.5 equiv. | C(C)(=O)[O-].[K+]
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | (3-bromo-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl acetate | C(C)(=O)OCC=1N=C2N(C(C1Br)=O)C=CC=C2 | C11H9BrN2O3
